US07138533B2
8-(5-Chloropentanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one
Aluminum chloride (55 g, 410 mmol) was added by portions to a solution of 1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one (30.0 g) and 5-chlorovaleryl chloride (26.8 ml) in 1,2-dichloroethane (70 ml) under ice-cooling. After stirring at room temperature for 30 minutes, the reaction mixture was poured into ice (500 g), extracted with ethyl acetate, and washed with brine. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and the residue was recrystallized from ethanol-diethyl ether to give a pale yellow solid (36.5 g). Further recrystallization from ethanol-diethyl ether afforded the title compound as colorless crystals (32.4 g) having a melting point of 110–111° C.

reactant | Aluminum chloride | 410 mmol, 55 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 30.0 g | C1CN2C(CCC3=CC=CC1=C23)=O | C11H11NO
reactant | 5-chlorovaleryl chloride | 26.8 ml | ClCCCCC(=O)Cl | C5H8Cl2O
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
product | 8-(5-Chloropentanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 36.5 g | ClCCCCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C16H18ClNO2
